US06242443B1
7-Amino-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
A solution of 3-isopropylamino-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide (0.6 g) in hot methanol (25 mL) was supplemented with 10% Pd/C (0.06 g) and submitted to hydrogen under pressure (4 bars) for 1 h at 40° C. The insoluble material was removed by filtration and the filtrate was concentrated to dryness by evaporation under reduced pressure. The residue of the crude title compound was recrystallized from methanol-water (yield: 0.45 g); m.p.: 278-283° C.; IR (KBr): 3455, 3363, 3216, 2972, 1618, 1575, 1510, 1298, 1255, 1174, 1146, 1113 cm−1; 1H-NMR (DMSO-d6, HMDS; d ppm): 1.10 (d, 6H, 2×CH3), 3.85 (m, 1H, NH—CH), 5.15 (bs, 2H, NH2), 6.50-6.95 (bm, 4H, 5-H+6-H+8-H+NH—CH), 9.75 (bs, 1H, NH).

reactant | 3-isopropylamino-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 0.6 g | C(C)(C)NC1=NS(C2=C(N1)C=CC(=C2)[N+](=O)[O-])(=O)=O | C10H12N4O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 0.06 g | [Pd] | Pd
product | 7-Amino-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | NC1=CC2=C(NC(=NS2(=O)=O)NC(C)C)C=C1 | C10H14N4O2S
